US08703797B2
N-(3,5-Dichlorophenyl)-2-(4,5,8-trimethylquinolin-2-yl)hydrazinecarboxamide:
A solution of 2-hydrazinyl-4,5,8-trimethylquinoline (100 mg, 0.50 mmol) and 93.53 mg (1.0 eq) of 3,5-dichlorophenyl isocyanate was reacted as outlined in Scheme 1 above to give the desired title compound. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ ppm 2.43 (s, 3 H) 2.73 (s, 3 H) 2.77 (s, 3 H) 6.69 (s, 1 H) 6.92 (d, J=7.03 Hz, 1 H) 7.09 (t, J=1.90 Hz, 1 H) 7.23 (d, J=7.62 Hz, 1 H) 7.68 (br. s., 2 H) 8.35 (s, 1 H) 8.53 (s, 1 H) 9.24 (br. s., 1 H).

reactant | 2-hydrazinyl-4,5,8-trimethylquinoline | 0.50 mmol, 100 mg | N(N)C1=NC2=C(C=CC(=C2C(=C1)C)C)C | C12H15N3
reactant | 3,5-dichlorophenyl isocyanate | 93.53 mg, 1.0 eq | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
product | N-(3,5-Dichlorophenyl)-2-(4,5,8-trimethylquinolin-2-yl)hydrazinecarboxamide | ClC=1C=C(C=C(C1)Cl)NC(=O)NNC1=NC2=C(C=CC(=C2C(=C1)C)C)C | C19H18Cl2N4O
